US06242443B1
6-Chloro-3-butylamino-4H-1,2,4-benzothiadiazine 1,1-dioxide
The title compound was prepared from 2-amino-4-chlorobenzenesulfonamide and butyl isothiocyanate by a method analogous to the one described in Example 4; m.p. 267-269° C. (ethyl acetate); 1H-NMR (DMSO-d6): δ 0.90 (t, 3H, CH3), 1.24-1.60 (m, 4H, CH2CH2), 3.21 (q, 2H, NHCH2), 7.2-7.4 (m, 3H, ArH+NH), 7.68 (d, 1H, ArH), 10.55 (br.s, 1H, NH); MS: m/e 287-289 (M+); (C11H14N3Cl1O2S1) calc. C, 45.91; H, 4.91; N, 14.60; found C, 45.92; H, 5.12; N, 14.46.

reactant | 2-amino-4-chlorobenzenesulfonamide | NC1=C(C=CC(=C1)Cl)S(=O)(=O)N | C6H7ClN2O2S
reactant | butyl isothiocyanate | C(CCC)N=C=S | C5H9NS
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 6-Chloro-3-butylamino-4H-1,2,4-benzothiadiazine 1,1-dioxide | ClC=1C=CC2=C(NC(=NS2(=O)=O)NCCCC)C1 | C11H14ClN3O2S
